* PEX produced on Tue Jul 21 08:05:16 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from sparx_powdet_sbd_pex.ext - technology: ihp-sg13g2

.subckt sparx_powdet_sbd_pex vout vref vdd rfin vss
X0 vdd vss.t1 cap_cmim l=10u w=10u
X1 vss.t1 dw_8122_3287# vout vss.t13 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X2 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X3 vss.t1 dw_8122_3287# vout vss.t21 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X4 vdd vss.t1 cap_cmim l=10u w=10u
X5 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X6 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X7 vdd dw_9390_3287# vref vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X8 vss.t1 dw_8122_3287# vout vss.t3 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X9 a_9398_2535# dw_9390_3287# vss schottky_nbl1 l=1.2u w=2.655u
X10 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X11 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X12 vdd vss.t1 cap_cmim l=10u w=10u
X13 vdd vss.t1 cap_cmim l=10u w=10u
X14 vdd vss.t1 cap_cmim l=10u w=10u
X15 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X16 vout dw_8122_3287# vss.t1 vss.t12 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X17 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X18 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X19 vdd vss.t1 cap_cmim l=10u w=10u
X20 vdd vss.t1 cap_cmim l=10u w=10u
X21 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X22 vout dw_8122_3287# vss.t1 vss.t10 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X23 vdd vss.t1 cap_cmim l=9u w=6.8u
X24 vdd vss.t1 cap_cmim l=10u w=10u
X25 vdd vss.t1 cap_cmim l=10u w=10u
X26 vss.t1 dw_8122_3287# vout vss.t17 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X27 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X28 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X29 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X30 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X31 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X32 vss.t1 vss.t1 vss.t1 vss.t26 sg13_lv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.13u
X33 vdd vss.t1 cap_cmim l=9u w=6.8u
X34 vdd vss.t1 cap_cmim l=10u w=10u
X35 vdd vss.t1 cap_cmim l=10u w=10u
X36 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X37 vdd vss.t1 cap_cmim l=10u w=10u
X38 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X39 vss.t1 dw_8122_3287# vout vss.t7 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X40 a_8474_1965# vdd vss.t28 rhigh l=2u w=0.5u
X41 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X42 vout dw_8122_3287# vss.t1 vss.t14 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X43 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X44 vdd vss.t1 cap_cmim l=10u w=10u
X45 vdd vss.t1 cap_cmim l=10u w=10u
X46 vss.t1 dw_8122_3287# vout vss.t5 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X47 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X48 vdd vss.t1 cap_cmim l=10u w=10u
X49 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X50 vref dw_9390_3287# vss.t1 vss.t2 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X51 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X52 vdd vss.t1 cap_cmim l=10u w=10u
X53 vout dw_8122_3287# vss.t1 vss.t20 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X54 rfin a_8232_3371# cap_cmim l=10u w=10u
X55 dw_9390_3287# vref vss.t23 rppd l=1.5u w=0.5u
X56 vdd vss.t1 cap_cmim l=10u w=10u
X57 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X58 a_9398_2535# a_8474_1965# vss.t59 rsil l=2.5u w=0.5u
X59 vss.t1 dw_8122_3287# vout vss.t19 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X60 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X61 vdd vss.t1 cap_cmim l=10u w=10u
X62 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X63 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X64 vss.t1 vss.t24 vss.t1 vss.t25 sg13_lv_nmos ad=0.85p pd=5.68u as=0 ps=0 w=2.5u l=0.13u
X65 vdd vss.t1 cap_cmim l=10u w=10u
X66 vdd vss.t1 cap_cmim l=10u w=10u
X67 a_8232_3371# dw_8122_3287# vss schottky_nbl1 l=1.2u w=2.655u
X68 vout dw_8122_3287# vss.t23 rppd l=1.5u w=0.5u
X69 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X70 vss.t1 dw_8122_3287# vout vss.t11 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X71 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X72 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X73 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X74 vss.t1 dw_8122_3287# vout vss.t9 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X75 vout dw_8122_3287# vss.t1 vss.t16 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X76 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X77 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X78 vdd vss.t1 cap_cmim l=10u w=10u
X79 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X80 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X81 vout dw_8122_3287# vss.t1 vss.t22 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X82 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X83 vdd vss.t1 cap_cmim l=10u w=10u
X84 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X85 vout dw_8122_3287# vss.t1 vss.t6 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X86 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X87 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X88 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X89 vref dw_9390_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X90 vout dw_8122_3287# vss.t1 vss.t4 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X91 vdd vdd vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=43.4451p ps=0.26832m w=5u l=0.13u
X92 vss.t1 dw_9390_3287# vref vss.t0 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X93 vdd vss.t1 cap_cmim l=10u w=10u
X94 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X95 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X96 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X97 vdd vss.t1 cap_cmim l=10u w=10u
X98 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X99 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X100 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X101 vdd vss.t1 cap_cmim l=10u w=10u
X102 vdd vdd vdd vdd sg13_lv_pmos ad=1.7p pd=10.68u as=0 ps=0 w=5u l=0.13u
X103 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X104 vout dw_8122_3287# vss.t1 vss.t18 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X105 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X106 vdd vss.t1 cap_cmim l=10u w=10u
X107 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X108 a_8232_3371# a_8474_1965# vss.t90 rsil l=2.5u w=0.5u
X109 vdd vss.t1 cap_cmim l=10u w=10u
X110 vdd dw_8122_3287# vout vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X111 vout dw_8122_3287# vdd vdd sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X112 vout dw_8122_3287# vss.t1 vss.t8 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X113 a_8474_1965# vss.t1 cap_cmim l=10u w=10u
X114 vdd vss.t1 cap_cmim l=10u w=10u
X115 vss.t1 dw_8122_3287# vout vss.t15 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
R0 vss.n30 vss.t59 5876.96
R1 vss.n4 vss.t28 1640.15
R2 vss.t28 vss.n30 3087.21
R3 vss.n2 vss.t90 1589.9
R4 vss.n4 vss.n28 901.754
R5 vss.t90 vss.n29 931.034
R6 vss.t59 vss.n3 933.874
R7 vss.n0 vss.n30 446.897
R8 vss.n4 vss.t1 558.465
R9 vss.n29 vss.n3 307.425
R10 vss.t2 vss.t0 30.5029
R11 vss.n6 vss.t26 7.01093
R12 vss.n5 vss.t25 7.01079
R13 vss.n12 vss.t22 17.644
R14 vss.n19 vss.t20 17.644
R15 vss.n14 vss.t18 17.644
R16 vss.n20 vss.t16 17.644
R17 vss.n15 vss.t14 17.644
R18 vss.n17 vss.t9 17.644
R19 vss.t7 vss.n23 17.644
R20 vss.t5 vss.n18 17.644
R21 vss.t3 vss.n26 17.644
R22 vss.t11 vss.t23 14.6536
R23 vss.n12 vss.t21 12.8594
R24 vss.n19 vss.t19 12.8594
R25 vss.n14 vss.t17 12.8594
R26 vss.n20 vss.t15 12.8594
R27 vss.t13 vss.n15 12.8594
R28 vss.n21 vss.t12 12.8594
R29 vss.t10 vss.n17 12.8594
R30 vss.n23 vss.t8 12.8594
R31 vss.t6 vss.n18 12.8594
R32 vss.n26 vss.t4 12.8594
R33 vss.n6 vss.t22 8.02562
R34 vss.t15 vss.n9 12.1076
R35 vss.t12 vss.n8 12.1076
R36 vss.n22 vss.t10 12.1076
R37 vss.t8 vss.n7 12.1076
R38 vss.n24 vss.t6 12.1076
R39 vss.n16 vss.t13 12.1071
R40 vss.t17 vss.n10 12.1071
R41 vss.t19 vss.n13 12.1071
R42 vss.t21 vss.n11 12.1071
R43 vss.t4 vss.n25 12.1071
R44 vss.n1 vss.n28 8.501
R45 vss.t1 vss.n26 8.5005
R46 vss.t1 vss.n23 8.5005
R47 vss.t1 vss.n21 8.5005
R48 vss.t1 vss.n20 8.5005
R49 vss.t1 vss.n19 8.5005
R50 vss.t1 vss.n12 8.5005
R51 vss.t1 vss.n14 8.5005
R52 vss.t1 vss.n15 8.5005
R53 vss.t1 vss.n17 8.5005
R54 vss.t1 vss.n18 8.5005
R55 vss.n0 vss.n3 2.75633
R56 vss.t20 vss.n11 7.32294
R57 vss.t16 vss.n10 7.32294
R58 vss.n25 vss.t5 7.32294
R59 vss.t18 vss.n13 7.32294
R60 vss.n16 vss.t2 7.32294
R61 vss.n5 vss.t3 8.02564
R62 vss.n24 vss.t7 7.32242
R63 vss.t9 vss.n7 7.32242
R64 vss.n22 vss.t11 7.32242
R65 vss.t0 vss.n8 7.32242
R66 vss.t14 vss.n9 7.32242
R67 vss.n29 vss.n1 5.6686
R68 vss.n28 vss.n27 4.75145
R69 vss.n2 vss.n27 12.787
R70 vss.t23 vss.n21 2.99093
R71 vss.t1 vss.n5 1.12189
R72 vss.t1 vss.n25 1.93648
R73 vss.t1 vss.n24 1.93648
R74 vss.t1 vss.n7 1.93648
R75 vss.t1 vss.n22 1.93648
R76 vss.t1 vss.n8 1.93648
R77 vss.t1 vss.n9 1.93648
R78 vss.t1 vss.n10 1.93648
R79 vss.t1 vss.n11 1.93648
R80 vss.t1 vss.n6 1.12191
R81 vss.t1 vss.n13 1.93648
R82 vss.t1 vss.n16 1.93648
R83 vss.n0 vss.n27 1.87635
R84 vss.n2 vss.n1 0.00266778
R85 vss.t24 vss.t1 1.20263
R86 vss.n1 vss.n0 1.08482
R87 vss vss.n0 0.0005
C0 dw_9390_3287# vref 0.66034f
C1 a_8232_3371# a_8474_1965# 0.06382f
C2 a_9398_2535# a_9398_2035# 0.02622f
C3 dw_9390_3287# dw_8122_3287# 2.48837f
C4 a_9398_2535# dw_9390_3287# 0.54686f
C5 rfin a_8232_3371# 1.14761f
C6 a_9398_2035# a_8232_3371# 0.01213f
C7 vdd a_8474_1965# 5.19837f
C8 vref dw_8122_3287# 0.77553f
C9 a_9776_10932# vdd 0.0126f
C10 dw_9390_3287# vout 0.24433f
C11 dw_9390_3287# a_8232_3371# 0.10207f
C12 vref vout 2.97107f
C13 rfin a_8474_1965# 0.01614f
C14 vout dw_8122_3287# 4.29311f
C15 a_8474_2035# a_8232_3371# 0.05211f
C16 a_9398_2035# a_8474_1965# 0.02416f
C17 dw_9390_3287# vdd 0.73047f
C18 a_8232_3371# dw_8122_3287# 1.06735f
C19 a_9398_2535# a_8232_3371# 0.1825f
C20 a_9776_10932# a_9396_10932# 0.01274f
C21 dw_9390_3287# a_8474_1965# 0.06199f
C22 vref vdd 2.17332f
C23 vref a_8474_1965# 0.19179f
C24 dw_9390_3287# rfin 0.0415f
C25 a_12042_5026# vdd 0.0653f
C26 a_8474_2035# a_8474_1965# 0.02075f
C27 vdd dw_8122_3287# 6.31825f
C28 a_12042_5026# a_8474_1965# 0.01902f
C29 a_8474_1965# dw_8122_3287# 0.11747f
C30 a_9398_2535# a_8474_1965# 0.03586f
C31 a_9776_10932# dw_8122_3287# 0.03763f
C32 dw_9390_3287# a_9396_10932# 0.03652f
C33 vout vdd 33.1585f
C34 vout a_8474_1965# 1.11736f
C35 rfin dw_8122_3287# 0.07528f
C36 vref a_9396_10932# 0.04195f
C37 a_9398_2535# rfin 0.05177f
C38 a_9776_10932# vout 0.03993f
C39 vref vss 7.35578f
C40 vout vss 41.11438f
C41 a_9398_2535# vss 0.1611f
C42 a_8232_3371# vss 0.1611f
C43 vss.t1 vss 3.58749f
.ends

